US04062859
EXAMPLE 8 -- Preparation of 2-methyl-4,4,5,5-tetrachloro-3-isothiazolidinone-1-oxide
To a solution of 2.55g. (0.01 mole) of 2-methyl-4,4,5,5-tetrachloro-3-isothiazolidinone in 10 ml. of chloroform at 0° is added a solution of 2.03g. (0.01 mole) of m-chloroperbenzoic acid (85% Technical) in 60 ml. of chloroform. The mixture is allowed to warm to room temperature and stand over a weekend. The solution is cooled in dry ice. White solid (m-chlorobenzoic acid) separates (0.91g.) and is removed by filtration. The filtrate is washed in a separatory funnel with 50 ml. of water containing 0.4g. of sodium bicarbonate. The chloroform solution is separated and dried over magnesium sulfate. Evaporation gives 2.54g. of crude product as a white solid.

reactant | 2-methyl-4,4,5,5-tetrachloro-3-isothiazolidinone | 0.01 mole | CN1SC(C(C1=O)(Cl)Cl)(Cl)Cl | C4H3Cl4NOS
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | m-chloroperbenzoic acid | 0.01 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | dry ice | C(=O)=O | CO2
product | 2-methyl-4,4,5,5-tetrachloro-3-isothiazolidinone-1-oxide | CN1S(C(C(C1=O)(Cl)Cl)(Cl)Cl)=O | C4H3Cl4NO2S
